Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Yellow Fever Vaccine / Plavix
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old male who presented to an outside 
hospital after he was injured while riding his lawnmower.  The 
patient was riding lawnmower up a hill when it overturned and 
landed on him and he sustained a penetrating injury to the L 
side of his neck and a left medial thigh hematoma. Sutures were 
placed on the neck laceration and a hand laceration. He is on 
couamdin. INR was 3.7. He was given FFP at referring ER.  He was 
transferred to ___ for further management.
 
Past Medical History:
PMH: CAD w h/o stents, afib, hypothyroidism, BPH  
PSH: h/o pacemaker, IHR 

 
Family History:
Non-contributory
 
Physical Exam:
On admission:

Constitutional: Comfortable
2 cm laceration on L side of neck with +neck hematoma -
nonpulsatile
Chest: Clear to auscultation. No CW TTP, no crepitance
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
Extr/Back: +laceration to L hand -sutured.  +ecchymosis
medial aspect L thigh.
Skin: No rash, Warm and dry
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
___: No petechiae

On discharge:

VS T97.7, 62, 110/62, 14, 98% on room air.
Left neck with mattress suture in place.  Echymosis noted, neck 
supple, very small hematoma.
Left dorsal aspect of hand with two sutured laceration, CDI, 
ecchymosis noted.
Left medial thigh hematoma soft, tender, ecchymotic.
 
Pertinent Results:
___ 05:00AM BLOOD WBC-7.3 RBC-4.37* Hgb-14.0 Hct-41.4 
MCV-95 MCH-32.0 MCHC-33.8 RDW-12.6 Plt ___
___ 05:40AM BLOOD WBC-6.0 RBC-4.15* Hgb-13.5* Hct-38.8* 
MCV-93 MCH-32.5* MCHC-34.8 RDW-13.0 Plt ___
___ 08:50PM BLOOD WBC-8.9 RBC-4.72 Hgb-15.1 Hct-44.1 MCV-93 
MCH-32.0 MCHC-34.3 RDW-12.8 Plt ___
___ 08:50PM BLOOD ___ PTT-40.5* ___
___ 05:40AM BLOOD ___
___ 05:00AM BLOOD ___
___ 08:50PM BLOOD ___ 05:40AM BLOOD Glucose-98 UreaN-15 Creat-0.9 Na-139 
K-3.9 Cl-107 HCO3-26 AnGap-10
___ 05:40AM BLOOD Calcium-8.6 Phos-2.4* Mg-2.1
___ 08:50PM BLOOD Digoxin-0.4*
___ 08:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:

___ Knee
No acute fracture or dislocation is seen.  A small suprapatellar 
joint 
effusion is noted.  A large superior patellar enthesophyte is 
present.  The joint spaces are preserved.  There are scattered 
vascular calcifications.  No suspicious lytic or sclerotic 
osseous abnormalities present. 

 
Brief Hospital Course:
___ presented to ___ from an outside hospital after he 
was injured while riding his ___.  His injuries include a 
left neck laceration with hematoma, left medial thigh hematoma 
and left dorsal hand laceration.  His INR at the OSH was 3.7 
(secondary to Coumadin administration) and was reversed with 
FFP.  He was transferred to ___ due to concerns of bleeding.  

___ was kept NPO and given IV fluids until it was confirmed 
he would not need a surgical procedure.  His hematocrit levels 
remained stable (38 - 44).  His INR was allowed to drift down, 
where its low was 1.5.  Once he was clinically stable, he was 
given an oral diet, which he tolerated well.  He was started on 
his home medications other than Coumadin.  The patient was 
advised to see his PCP upon discharge to determine if or how 
much Coumadin the patient should take.  His CHADS2VASC score is 
2.

On ___, ___ worked with physical therapy prior to 
discharge to assess his motor function and balance.  He became 
orthostatic with a SBP of 88 on standing.  He was asymptomatic, 
however.  His lying SBP was 120.  He was urinating well, 
mentating, and his mucous membranes were moist.  His heart 
rhythm was regular.  With the thinking that he may be in a 
negative fluid balance, he was given two 500ml boluses but had 
no real improvement in his vitals.  He was observed overnight 
and his blood pressures improved.  His labs were check and 
electrolyte abnormalities were corrected as needed.

On the day of discharge, ___, ___ was again evaluated by 
physical therapy.  He did have a slight drop in SBP upon 
standing, but he was asymptomatic and walked some stairs with 
the therapist.  

At the time of discharge, ___ was afebrile, hemodynamically 
stable and in no acute distress.  He was discharged home in the 
care of his wife and daughter.  A ___ appointment was made 
with his PCP ___ ___.  The patient was informed that his neck 
sutures could come out in ___ days and his left hand sutures 
could come out in ___ days.  He could coordinate that care with 
his PCP.  ___ will also ___ in the ___ clinic in 
approximately 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. econazole *NF* 1 % Topical q HS groin and toe nail fungus 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Digoxin 0.125 mg PO DAILY 
5. Pravastatin 40 mg PO DAILY 
6. Tamsulosin 0.4 mg PO HS 
7. Multivitamins 1 TAB PO DAILY 
8. Warfarin 2.5-5 mg PO DAILY per PCP office 

 
Discharge ___:
1. Aspirin 81 mg PO DAILY 
2. Digoxin 0.125 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Pravastatin 40 mg PO DAILY 
5. Tamsulosin 0.4 mg PO HS 
6. Multivitamins 1 TAB PO DAILY 
7. econazole *NF* 1 % Topical q HS groin and toe nail fungus 
8. Acetaminophen 325-650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Left neck laceration
- Left medial thigh hematoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to ___ on 
___ after you were involved in an accident while using your 
lawnmower.  On further evaluation, you were found to have a left 
neck laceration and left thigh hematoma.  Your INR on admission 
was 3.7, so you were given fresh frozen plasma to reverse the 
bleeding time.  You were admitted for observation.  Your blood 
counts have been normal since that time and your injuries are 
stable.  You are now being discharged with the following 
instructions.

You are not being started on your Coumadin.  You will see Dr. 
___ and he will discuss this issue with you.  

You should resume all other medications that you were taking 
prior to this hospitalization.  You were noted to have some low 
blood pressures on ___, but that issue has improved.  Dr. 
___ will determine, based on his exams, if any of your 
medications require changes.
 
Followup Instructions:
___